US07335764B2
2′-O-ethoxyethyl-5-methyluridine
2,2′-Anhydro-5-methyluridine (195 g, 0.81 M), tris(2-methoxyethyl)borate (231 g, 0.98 M) and 2-methoxyethanol (1.2 L) were added to a 2 L stainless steel pressure vessel and placed in a pre-heated oil bath at 160° C. After heating for 48 hours at 155-160° C., the vessel was opened and the solution evaporated to dryness and triturated with MeOH (200 mL). The residue was suspended in hot acetone (1 L). The insoluble salts were filtered, washed with acetone (150 mL) and the filtrate evaporated. The residue (280 g) was dissolved in CH3CN (600 mL) and evaporated. A silica gel column (3 kg) was packed in CH2Cl2/acetone/MeOH (20:5:3) containing 0.5% Et3NH. The residue was dissolved in CH2Cl2 (250 mL) and adsorbed onto silica (150 g) prior to loading onto the column. The product was eluted with the packing solvent to give 160 g (63%) of product. Additional material was obtained by reworking impure fractions.

reactant | 2,2′-Anhydro-5-methyluridine | 0.81 M, 195 g | CC1=CN2[C@H]3[C@H]([C@@H]([C@H](O3)CO)O)OC2=NC1=O | C10H12N2O5
reactant | tris(2-methoxyethyl)borate | 0.98 M, 231 g | COCCOB(OCCOC)OCCOC | C9H21BO6
reactant | 2-methoxyethanol | 1.2 L | COCCO | C3H8O2
product | 2′-O-ethoxyethyl-5-methyluridine | 160 g, 63% | C(C)OCCO[C@H]1[C@@H](O[C@@H]([C@H]1O)CO)N1C(=O)NC(=O)C(=C1)C | C14H22N2O7
